US05081271
a) 2-(3-Trimethylgermylphenyl)-2-methyl-1,3-dioxolane
A mixture of 81 mg (3.33 mmol) of magnesium and 574 mg (3.75 mmol) of trimethylgermyl chloride was stirred at 40°-50° C. in an atmosphere of argon. To the mixture was added a solution of 729 mg (3.00 mmol) of 2-(3-bromophenyl)-2-methyl-1,3-dioxolane in 10 ml of tetrahydrofuran with stirring. The mixture was refluxed for 2.5hr. and stirred at room temperature overnight. To the reaction mixture was added petroleum ether and the insoluble substance was filtered off. The filtrate was evaporated to give 874 mg of pale yellow crystals, which were purified by column chromatography on silica gel [eluent: methylene chloride-n-hexane (1:1)] to give 657 mg of white cubes, m.p.62.5°-63.5° C. (yield 78%).

reactant | magnesium | 3.33 mmol, 81 mg | [Mg] | Mg
reactant | trimethylgermyl chloride | 3.75 mmol, 574 mg | C[Ge](C)(C)Cl | C3H9ClGe
reactant | 2-(3-bromophenyl)-2-methyl-1,3-dioxolane | 3.00 mmol, 729 mg | BrC=1C=C(C=CC1)C1(OCCO1)C | C10H11BrO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(3-Trimethylgermylphenyl)-2-methyl-1,3-dioxolane | 874 mg, yield 78% | C[Ge](C=1C=C(C=CC1)C1(OCCO1)C)(C)C | C13H20GeO2
